US06462036B1
A mixture of 4-cyanophenacyl bromide (3.0 g), methyl thiosalicylate (2.25 g), sodium methoxide (1.52 g) and ethanol (100 ml) was boiled under reflux for 3.5 hours. The mixture was cooled and diluted with 2M hydrochloric acid (100 ml). A precipitate was collected by filtration and recrystallized from ethanol to give 2-(4-cyanobenzoyl)-3-hydroxybenzo[b]thiophene.

reactant | 4-cyanophenacyl bromide | 3.0 g | C(#N)C1=CC=C(C(CBr)=O)C=C1 | C9H6BrNO
reactant | methyl thiosalicylate | 2.25 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | sodium methoxide | 1.52 g | C[O-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 2M, 100 ml | Cl | ClH
product | 2-(4-cyanobenzoyl)-3-hydroxybenzo[b]thiophene | C(#N)C1=CC=C(C(=O)C2=C(C3=C(S2)C=CC=C3)O)C=C1 | C16H9NO2S
